US07034039B2
A suspension of tert-butyl[6-(aminothiocarbonyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.46 g, 1 mmol), bromoacetone (0.20 g, 1.5 mmol) and sodium acetate (0.12 g, 1.5 mmol) in ethanol (10 ml) was refluxed under heating for 12 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl[4-butoxy-2-isobutyl-6-(4-methyl-1,3-thiazol-2-yl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.36 g, 73.5%) as an amorphous.

reactant | tert-butyl[6-(aminothiocarbonyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 1 mmol, 0.46 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C(=S)N)=O)CC(C)C)=O | C24H35N3O4S
reactant | bromoacetone | 1.5 mmol, 0.20 g | BrCC(C)=O | C3H5BrO
reactant | sodium acetate | 1.5 mmol, 0.12 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | tert-butyl[4-butoxy-2-isobutyl-6-(4-methyl-1,3-thiazol-2-yl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.36 g, 73.5% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1SC=C(N1)C)=O)CC(C)C)=O | C27H37N3O4S
